Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Surgical or Invasive Procedure:
___: Redo TIPS
___: Redo TIPS

attach
 
Pertinent Results:
ADMISSION LABS:

___ 07:30AM BLOOD WBC-4.2 RBC-4.29* Hgb-12.1* Hct-37.9* 
MCV-88 MCH-28.2 MCHC-31.9* RDW-14.7 RDWSD-47.1* Plt Ct-63*
___ 07:30AM BLOOD ___
___ 07:30AM BLOOD Plt Ct-63*
___ 06:11PM BLOOD ___
___ 07:30AM BLOOD UreaN-21* Creat-1.0 Na-142 K-4.6 Cl-109* 
HCO3-22 AnGap-11
___ 07:30AM BLOOD ALT-75* AST-88* AlkPhos-487* TotBili-1.0
___ 06:11PM BLOOD Albumin-4.0 Calcium-8.7 Phos-2.7 Mg-1.9

DISCHARGE LABS:
___ 04:54AM BLOOD WBC-5.1 RBC-3.97* Hgb-11.2* Hct-35.4* 
MCV-89 MCH-28.2 MCHC-31.6* RDW-14.7 RDWSD-48.1* Plt Ct-71*
___ 12:07PM BLOOD PTT-83.3*
___ 04:54AM BLOOD Plt Ct-71*
___ 03:22PM BLOOD ___ 04:54AM BLOOD Glucose-95 UreaN-24* Creat-1.0 Na-140 
K-4.4 Cl-109* HCO3-19* AnGap-12
___ 04:54AM BLOOD ALT-501* AST-660* LD(LDH)-696* 
AlkPhos-428* TotBili-2.7*
___ 04:54AM BLOOD Albumin-3.6 Calcium-8.3* Phos-3.0 Mg-1.9

MICRO:
n/a

IMAGING:
___ REDO TIPS 
Successful right internal jugular access with direct 
transjugular intrahepatic portosystemic shunt revision with 
extension of the TIPS cranially. 
  
New direct TIPS aspiration thrombectomy. 
  
Thrombolysis catheter placement through the right IJ sheath for 
overnight 
thrombolysis 

___BD & PELVIS W & W/O 
1. Interval redo TIPS procedure, with persistent thrombus in the 
TIPS shunt.  
The new TIPS shunt lies parallel to the superior most aspect of 
the 
pre-existing stent, with its upper portion approximately 1 cm 
below the 
cavoatrial junction.  The tPA infusion catheter localizes in the 
lower right atrium, with the lowest radiopaque marker overlying 
the lower cavoatrial junction. 
2. There is increased burden of nonocclusive thrombus in the 
main portal vein. 
3. Interval development of trace ascites. 
4. Stable cirrhosis with secondary changes representing the 
sequela of portal hypertension including perisplenic, 
perigastric and periesophageal varices, and splenomegaly. 

___ REDO TIPS 
  
Successful revision of occluded TIPS and thrombosed portal vein 
with a 
postprocedural portosystemic gradient of 11 mm Hg. 
  
Technically successful coronary variceal embolization and 
sclerotherapy. 

 
Brief Hospital Course:
___ male with congenital hepatic fibrosis complicated by 
portal hypertension and variceal bleeding s/p TIPS ___ who 
presented to the MICU s/p TIPS revision with thrombolysis 
complicated by hypoxia. 

ACUTE ISSUES 
======================= 
#Hypoxic respiratory failure: 
Patient developed new oxygen requirement after ___ TIPS revision. 
Unclear if VTE or atelectasis
or just some orthodeoxia but responded to oxygen and remained on 
room air for the majority of his ICU course. 

# Congenital Hepatic Fibrosis c/b portal hypertension and
variceal bleeding:
# S/p TIPS ___ and revision ___
Pt with congenital hepatic fibrosis c/b portal HTN and variceal 
bleeding. TIPS revision complicated by hypoxia. He had a right 
IJ sheath with lysis catheter placed. He underwent CTV with 
persistent thrombus in TIPS shunt. Now s/p revision of occuled 
TIPS and thrombosed portal vein with a postprocedural 
portosystemic gradient of 11 mm Hg. He also had successful 
coronary variceal embolization and sclerotherapy. He was placed 
on a heparin drip post TIPS and transitioned to lovenox on 
discharge.
- GIB/VARICES: EGD ___ which showed scarring at GE junction, 
proximal grade 2 EVs s/p esophageal band ligation x4 and large 
gastric varices. Pt also presented to an outside ED in ___ 
with acute UGIB/variceal bleed. Not able to be banded/embolized; 
considered for future procedure. On nadolol at home which was 
continued while inpatient.
- ASCITES: no history of ascites, not on diuretics, he was not 
overloaded on exam.

#Transminitis
Likely due to liver disease and TIPS procedure

# Thrombocytopenia
Likely ___ to liver disease and sequestration 

CHRONIC ISSUES 
======================= 
# Hyperlipidemia:
- Continued Pravastatin 40 mg QHS 

TRANSITIONAL ISSUES: 
======================= 
[ ] please recheck LFTs in 1 week to ensure downtrending 
[ ] check CBC within 1 week as on anticoagulation and patient 
has bleeding history 
[ ] f/u US of TIPS shunt in 1 week
[ ] continue lovenox for one month 
[ ] follow up with ___ in 1 month 
#CODE STATUS: Presumed FULL 
#CONTACT: ___ - wife - ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nadolol 40 mg PO DAILY 
2. Pravastatin 40 mg PO QPM 
3. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  Enoxaparin Sodium 90 mg SC Q12H  
2.  Nadolol 40 mg PO DAILY  
3.  Pantoprazole 40 mg PO Q24H  
4.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIANGOSIS:
Hypoxic respiratory failure 
Congenital Hepatic Fibrosis c/b portal hypertension and variceal 
bleeding
TIPS occlusion
Portal vein thrombosis occlusion

SECONDARY DIAGNOSIS:
Transaminitis
Thrombocytopenia
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted because you had a blood clot in your TIPS and 
your oxygen was low. 

WHAT WAS DONE WHILE I WAS HERE?
We opened up the vessels/TIPS. We started you on a blood 
thinner. We watched your breathing closely. 

WHAT SHOULD I DO NOW?
You should take your medications as instructed. 
You should go to your doctor's appointments as below. 

We wish you the best!
-Your ___ Care Team 
 
Followup Instructions:
___